US06291485B1
Synthesis of 4,5-dihydro-1-(3-ethoxy-α-ethylbenzyl)-7-(5-pyrimidinylmethoxy)-[1H]-benz[g]indazole-3-carboxylic acid sodium salt
The 4,5-dihydro-1-(3-ethoxy-α-ethylbenzyl)-7-(5-pyrimidinylmethoxy)-[1H]-benz[g]indazole-3-carboxylic acid (600 mg, 1.23 m mol) obtained in Example 34 was suspended in water (20 ml) and dissolved therein by the addition of 1 N sodium hydroxide (2 ml). This solution was subjected to column chromatography using a CHP 20P resin (20 ml; manufactured by Mitsubishi Chemical Co., Ltd.), and eluted successively with water and 50% ethanol-water. After the 50% ethanol-water fraction was concentrated under reduced pressure, the residue was dissolved in water (30 ml) and this solution was concentrated again under reduced pressure. Thereafter, the residue was dissolved in water (15 ml) and freeze-dried to obtain the desired compound (500 mg, 80%) as a colorless powder.

reactant | 4,5-dihydro-1-(3-ethoxy-α-ethylbenzyl)-7-(5-pyrimidinylmethoxy)-[1H]-benz[g]indazole-3-carboxylic acid | 600 mg | C(C)OC=1C=C(C(CC)N2N=C(C=3CCC4=C(C23)C=CC(=C4)OCC=4C=NC=NC4)C(=O)O)C=CC1 | C28H28N4O4
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 4,5-dihydro-1-(3-ethoxy-α-ethylbenzyl)-7-(5-pyrimidinylmethoxy)-[1H]-benz[g]indazole-3-carboxylic acid sodium salt | 500 mg, 80% | [Na+].C(C)OC=1C=C(C(CC)N2N=C(C=3CCC4=C(C23)C=CC(=C4)OCC=4C=NC=NC4)C(=O)[O-])C=CC1 | InChI=1S/C28H28N4O4.Na/c1-3-25(20-6-5-7-21(13-20)35-4-2)32-27-23-11-9-22(36-16-18-14-29-17-30-15-18)12-19(23)8-10-24(27)26(31-32)28(33)34;/h5-7,9,11-15,17,25H,3-4,8,10,16H2,1-2H3,(H,33,34);/q;+1/p-1
